US05571820
While maintaining at 0° to 5° C., 10 g of sodium borohydride was added by several portions to a mixture of 10 g of 2-aminobenzyl alcohol, 13.3 g of sodium acetate trihydrate, 40 ml of acetic acid, 80 ml of water, 30 ml of ethanol and 30 ml of acetone. After stirring for an hour at the same temperature, the reaction mixture was neutralized with sodium hydrogen carbonate followed by extraction with ethyl acetate. The organic layer was washed with water and then with saturated sodium chloride aqueous solution followed by drying over anhydrous magnesium sulfate. After the solvent was distilled off in vacuo, the resulting oily substance was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) and then distilled in vacuo to give 9.6 g of 2-isopropylaminobenzyl alcohol.

reactant | sodium borohydride | 10 g | [BH4-].[Na+]
reactant | 2-aminobenzyl alcohol | 10 g | NC1=C(CO)C=CC=C1 | C7H9NO
reactant | sodium acetate trihydrate | 13.3 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | 80 ml | O | H2O
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 2-isopropylaminobenzyl alcohol | 9.6 g | C(C)(C)NC1=C(CO)C=CC=C1 | C10H15NO
